US05753670
5-Cyano-2-benzofurancarboxylic acid (300 mg, 1.60 mmol) and t-butyl 4-aminophenoxyacetate (395 mg, 1.76 mmol) were dissolved in N,N-dimethylformamide (40 ml), and 1-hydroxy-1H-benzotriazole (238 mg, 1.76 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (342 mg, 1.76 mmol) were added. The mixture was stirred at room temperature for 18 hours. Water (100 ml) was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. After filtration, low boiling matters were distilled away from the filtrate under reduced pressure and the residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=1/1) to give 512 mg of t-butyl 4-[(5-cyano-2-benzofuranyl)carbonylamino]phenoxyacetate as a pale-yellow solid (82%).

reactant | 5-Cyano-2-benzofurancarboxylic acid | 1.60 mmol, 300 mg | C(#N)C=1C=CC2=C(C=C(O2)C(=O)O)C1 | C10H5NO3
reactant | t-butyl 4-aminophenoxyacetate | 1.76 mmol, 395 mg | NC1=CC=C(OCC(=O)OC(C)(C)C)C=C1 | C12H17NO3
reactant | 1-hydroxy-1H-benzotriazole | 1.76 mmol, 238 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 1.76 mmol, 342 mg | CN(CCCN=C=NCC)C | C8H17N3
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | Water | 100 ml | O | H2O
product | t-butyl 4-[(5-cyano-2-benzofuranyl)carbonylamino]phenoxyacetate | 512 mg, 82% | C(#N)C=1C=CC2=C(C=C(O2)C(=O)NC2=CC=C(OCC(=O)OC(C)(C)C)C=C2)C1 | C22H20N2O5
